* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Assignment 2\A.asc
V2 N010 N009 PWL file=150.csv
V3 Stimulus N010 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N009 0 {dcAmplitude}
V4 N014 0 9
R_Sense 9V N014 0.010
XU1 9V 0 5V LM7805
C5 5V 0 10µ
C6 9V 0 10µ
R3 N001 0 500k
R4 5V N001 500k
XU2 N001 VGround 5V 0 VGround TL081
R5 N002 N007 350k
C1 N008 0 110n
XU4 N008 N004 5V 0 Filtered TL081
R6 N008 N002 350k
Ra1 Filtered N004 10k
Rb1 0 N004 500k
C2 Filtered N002 110n
R7 Amplified N003 500k
R8 N003 VGround 10k
XU5 N006 N003 5V 0 Amplified TLC2272
R9 N006 0 500k
R10 N006 Filtered 10k
XU7 N005 VGround 5V 0 VoutBeatPulses LT1018
C8 N007 Stimulus 750n
R18 N007 VGround 300k
R21 VoutBeatPulses N005 100k
R22 N005 Amplified 10k
A1 /Q 0 VoutBeatPulses N013 0 /Q PWM 0 DFLOP Vhigh 5 Trise 10n
R1 N013 /Q 500k
C3 N013 0 1µ
R2 VoutRateAnalogue N012 500k
R15 N012 N011 40k
XU3 N019 N012 5V 0 VoutRateAnalogue TLC2272
R16 N019 0 500k
R17 N019 Analogue_Small 40k
R19 N015 PWM 500k
C4 N015 0 900n
R20 N016 N015 500k
C12 N016 0 900n
R23 N017 N016 500k
C13 N017 0 900n
R24 Analogue_Small N017 500k
C14 Analogue_Small 0 900n
XU6 N018 N011 5V 0 N011 TLC2272
R11 VGround N018 500k tol=60k
R12 N018 0 150k
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* D.H. von Eschwege,  21785155\nDC = 2 V\nHeart rate pk = 38.85 mV
.incl TLC2272.lib
.incl LM78XX_RS.lib
.incl TL081.lib
.options numdgt = 7
.options plotwinsize = 0
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
