* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Assignment 2\X_2ndOrderBPF_Schmitt - bruh - Copy.asc
V2 N007 N006 PWL file=150.csv
V3 Stimulus N007 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N006 0 {dcAmplitude}
V4 N013 0 9
R_Sense 9V N013 0.010
XU1 9V 0 5V LM7805
C5 5V 0 10µ
C6 9V 0 10µ
R5 AMP_out N001 500k
R6 N001 VGround 12k
XU4 N004 N001 5V 0 AMP_out TLC2272
R9 N004 VGround 500k
R10 N004 BPF_out 12k
R3 N002 0 500k
R4 5V N002 500k
XU5 N002 VGround 5V 0 VGround TL081
R7 BPF_out N003 500k
C1 BPF_out VGround 90n
C2 N003 Stimulus 500n
R8 N003 VGround 500k
Rload1 VoutBeatPulses 0 100k
XU2 N005 VGround 5V 0 VoutBeatPulses LT1018
R11 VoutBeatPulses N005 100k
R12 N005 AMP_out 15k
R2 N008 AMP_out 500k
C4 N018 0 300n
XU3 N018 N012 5V 0 N009 TL081
R13 N018 N008 500k
Ra1 N009 N012 10k
Rb1 0 N012 500k
C7 N009 N008 300n
D1 N016 N017 10MQ060N
R1 N017 VGround 500k
C3 N017 VGround 100µ
C8 N016 N009 1m
R14 N016 VGround 500k
XU6 N017 N011 5V 0 N011 TL081
Rload2 Analog 0 100k
R15 Analog N010 500k
R16 N010 N014 30k
XU7 N015 N010 5V 0 Analog TLC2272
R17 N015 0 500k
R18 N015 N011 25k
V5 N014 0 2.5
.model D D
.lib C:\Users\dvone\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* D.H. von Eschwege,  21785155\nDC = 2 V\nHeart rate pk = 38.85 mV
.incl TLC2272.lib
.incl LM78XX_RS.lib
.incl TL081.lib
.options numdgt = 7
.options plotwinsize = 0
;ac dec 1000 0.001 1000
;tran 0 10 0 {timestep}
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
