* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Assignment 2\X_2ndOrderBPF_Schmitt.asc
V2 N006 N005 PWL file=90.csv
V3 Stimulus N006 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N005 0 {dcAmplitude}
V4 N014 0 9
R_Sense 9V N014 0.010
XU1 9V 0 5V LM7805
R7 N003 N011 350k
C3 N012 0 110n
XU3 N012 N008 5V 0 LPF_out TL081
R8 N012 N003 350k
Ra2 LPF_out N008 125k
Rb2 0 N008 500k
C4 LPF_out N003 110n
C5 5V 0 10µ
C6 9V 0 10µ
Rload1 VoutBeatPulses 0 100k
R5 AMP_out N007 300k
R6 N007 N001 11k
XU4 N010 N007 5V 0 AMP_out TLC2272
R9 N010 0 300k
R10 N010 LPF_out 11k
R1 N002 0 150k
R2 5V N002 100k
XU2 N002 N001 5V 0 N001 TL081
XU6 N009 N004 5V 0 VoutBeatPulses LT1018
C1 N011 Stimulus 750n
R3 N015 0 100k
R4 5V N015 100k
XU5 N015 N013 5V 0 N013 TL081
R13 N011 N013 300k
R14 N004 0 215k
R15 5V N004 100k
R16 VoutBeatPulses N009 123333
R17 N009 AMP_out 10k
;tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* D.H. von Eschwege,  21785155\nDC = 2 V\nHeart rate pk = 38.85 mV
.incl TLC2272.lib
.incl LM78XX_RS.lib
.incl TL081.lib
.options numdgt = 7
.options plotwinsize = 0
;ac dec 1000 0.001 1000
.tran 0 10 0 {timestep}
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
