* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Temperature Sensor Circuits - Buffer\_Sensor_TLC2272_2ndOrder_TL081 - Copy.asc
V2 N007 N006 PWL file=PWLinput.csv
V3 Stimulus N007 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N006 0 {dcAmplitude}
V4 N014 0 9
R_Sense 9V N014 0.010
C1 N001 0 10µ
C2 9V 0 10µ
XU2 9V 0 N001 LM7805
Rload Vout 0 100k
R3 Vout N012 260k
R1 N012 N013 15k
XU1 N016 N012 N001 0 Vout TLC2272
R6 N015 0 14910
R5 N001 N015 30k
R4 N016 0 260k
R2 N016 N003 15k
R7 N004 Stimulus 100k
C4 N011 0 100n
R9 N011 N004 100k
Ra N005 N009 5k
Rb 0 N009 500k
C5 N005 N004 100n
R8 N002 N005 100k
C3 N010 0 100n
R10 N010 N002 100k
Ra1 N003 N008 5k
Rb1 0 N008 500k
C6 N003 N002 100n
XU5 N015 N013 N001 0 N013 TLC2272
XU3 N011 N009 N001 0 N005 TLC2272
XU4 N010 N008 N001 0 N003 TLC2272
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* D. H. von Eschwege, 21785155\nV(0degV) = 440mV\ndeltaV/degV = 35mV
.incl TLC2272.lib
.incl LM78XX_RS.lib
.incl TL081.lib
* cehck current
.lib C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\LTSpice\Voltage Regulators\LM78XX_RS.lib
.backanno
.end
