* C:\Users\dvone\Desktop\Engineering 3.2\E-Design 344\GitRepo\E344\Python\Assignment3\E344_A3_heart.asc
V1 Vheartsensor 0 PWL file=HeartSensorPWL.csv
V4 N008 0 9
R_Sense 9V N008 0.010
R1 N009 0 500k
R2 5V N009 500k
R3 N001 N006 500k
C1 N007 0 77n
R4 N007 N001 500k
Ra1 Filtered N003 10k
Rb1 0 N003 500k
C2 Filtered N001 77n
R5 Amplified N002 500k
R6 N002 VGround 10.5k
R7 N005 0 500k
R8 N005 Filtered 10.5k
C3 N006 Vheartsensor 525n
R9 N006 VGround 500k
R10 Vheartpulsesout N004 100k
R11 N004 Amplified 10k
XU6 N007 N003 5V 0 Filtered TL081 TL081
XU7 N005 N002 5V 0 Amplified TL081 TL081
XU8 N004 VGround 5V 0 Vheartpulsesout LT1018
XU5 N009 VGround 5V 0 VGround TL081 TL081
XU2 9V 0 5V LM7805
C4 5V 0 10µ
C5 9V 0 10µ
.tran 0 {transtop} 0 {timestep}
.include A3heartcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vheartsensor" to your \n               conditioning circuit's input\n  * Connect "Vheartpulsesout" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nD.H. von Eschwege., 21785155\nVheartsensor offset = 2V\nVheartsensor ampl = 38.85 mV\n=============================
* ==========================================================================================\nHeart signal conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* change these CAPS!!!
.lib LM78XX_RS.lib
.lib LTC1.lib
.backanno
.end
