* C:\Users\dvone\Desktop\Assignment3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N006 0 9
R_Sense 9V N006 0.010
Rload1 Vtempoutadc 0 100k
R1 Vtempoutadc N003 230k
R2 N003 V_diffamp 10k
R3 V_diffamp 0 5105
R4 5V V_diffamp 10k
R5 N009 0 230k
R6 N009 LPF2_out 10k
R7 N001 Vtempsensor 100k
C1 N007 0 100n
R8 N007 N001 100k
Ra1 LPF1_out N004 5k
Rb1 0 N004 500k
C2 LPF1_out N001 100n
R9 N002 LPF1_out 100k
C3 N008 0 100n
R10 N008 N002 100k
Ra2 LPF2_out N005 5k
Rb2 0 N005 500k
C4 LPF2_out N002 100n
XU4 N007 N004 5V 0 LPF1_out TL081 TL081
XU5 N008 N005 5V 0 LPF2_out TL081 TL081
XU6 N009 N003 5V 0 Vtempoutadc TLC2272 TLC2272
XU2 9V 0 5V LM7805
C5 5V 0 10µ
C6 9V 0 10µ
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nD.H. von Eschwege.,  21785155\nVtempsensor for 0degC = 440 mV\ndelta Vtempsensor = 35 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* change these CAPS!!!
.lib LM78XX_RS.lib
.backanno
.end
